US07666879B2
A. 1-(3-Iodo-phenyl)-2,2-dimethyl-propan-1-one
Combine NaOtBu (3.6 g, 4 equiv.), THF (10 mL), and NMP (10 mL) in a round bottomed flask. Place under nitrogen and cool to 0° C. Dissolve 1-(3-iodo-phenyl)-propan-1-one (2 g, 9.4 mmol) in THF (10 mL) and add dropwise to the reaction. Immediately following, add methyl iodide (2.3 mL, 4 equiv.) via syringe. Stir at 0° C. for 5 hours. Quench reaction with water then dilute with ethyl acetate. Wash organics with water then aqueous saturated sodium chloride. Dry over magnesium sulfate, filter and concentrate in vacuo. Purify by silica chromatography (Hex→5% EtOAc:Hexanes) to give 2.0 g clear liquid. 1H NMR (400 MHz, DMSO-d6) δ 7.70 (m, 2H), 7.66 (m, 1H), 7.40 (m, 1H), 1.23 (s, 9H).

reactant | NaOtBu | 3.6 g, 4 equiv. | CC(C)(C)[O-].[Na+]
reactant | 1-(3-iodo-phenyl)-propan-1-one | 9.4 mmol, 2 g | IC=1C=C(C=CC1)C(CC)=O | C9H9IO
reactant | methyl iodide | 2.3 mL, 4 equiv. | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 1-(3-Iodo-phenyl)-2,2-dimethyl-propan-1-one | 2.0 g | IC=1C=C(C=CC1)C(C(C)(C)C)=O | C11H13IO
